US09029405B2
Step 3: tert-butyl 2-((1-(4-(N′-hydroxycarbamimidoyl)phenyl)-2-methoxyethyl)(methyl)amino)acetate
A solution of tert-butyl 2-((1-(4-cyanophenyl)-2-methoxyethyl)(methyl)amino)acetate (0.136 g; 0.45 mmol) and 50% aqueous hydroxylamine (0.137 mL; 2.24 mmol) in ethanol (2 mL) was heated at 80° C. for 18 hours. The solvent was evaporated in vacuo. The residue was partitioned between DCM and water. The organic phase was poured through a hydrophobic frit and evaporated in vacuo to afford the title compound (0.141 g, 93%). 1H NMR (CDCl3, 400 MHz) δ 7.78 (d, J=8.4 Hz, 2H), 7.59-7.57 (m, 2H), 6.70 (br s, 1H), 4.84 (br s, 2H), 4.05-4.02 (m, 1H), 3.71-3.67 (m, 1H), 3.63-3.60 (m, 1H), 3.40-3.35 (m, 1H), 3.34 (s, 3H), 3.21-3.16 (m, 1H), 2.40 (s, 3H), 1.49 (s, 9H).

reactant | tert-butyl 2-((1-(4-cyanophenyl)-2-methoxyethyl)(methyl)amino)acetate | 0.45 mmol, 0.136 g | C(#N)C1=CC=C(C=C1)C(COC)N(CC(=O)OC(C)(C)C)C | C17H24N2O3
reactant | hydroxylamine | 2.24 mmol, 0.137 mL | NO | H3NO
solvent | ethanol | 2 mL | C(C)O | C2H6O
product | tert-butyl 2-((1-(4-(N′-hydroxycarbamimidoyl)phenyl)-2-methoxyethyl)(methyl)amino)acetate | 0.141 g, 93% | ON=C(N)C1=CC=C(C=C1)C(COC)N(CC(=O)OC(C)(C)C)C | C17H27N3O4
